US04085268
A benzene solution (50 ml) of 5,3-dibutyl allophanoyl chloride (0.1 mole) was prepared by reaction of phosgene with 1,3-dibutyl urea by the method of Example 2. This material was reacted with 16.0 g (0.2 mole) of potassium cyanate as described above. After work-up, 9.3 g (38% yield) of dibutyl isocyanuric acid was obtained; m.p. 86°-88° C. IR and nmr analysis was consistent with the assigned structure.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 1,3-dibutyl urea | C(CCC)NC(=O)NCCCC | C9H20N2O
reactant | potassium cyanate | 0.2 mole, 16.0 g | [O-]C#N.[K+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | dibutyl isocyanuric acid | 9.3 g, 38% yield | C(CCC)N1C(N(C(NC1=O)=O)CCCC)=O | C11H19N3O3
